data/mechanisms/records/IMS8-EQ8.108.json
{"mechanism_id": "IMS8-EQ8.108", "species": [{"species_id": "butenoyl_piperidide_molecular_ion", "mapped_smiles": "[N+:1]1([C:2](=[O:3])[CH:4]=[CH:5][CH3:6])[CH2:10][CH2:11][CH2:12][CH2:13][CH2:14]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "azetinone_piperidinium_ion", "mapped_smiles": "[O:3]=[C:2]1[CH:4]=[CH:5][N+:1]12[CH2:10][CH2:11][CH2:12][CH2:13][CH2:14]2", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["butenoyl_piperidide_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["azetinone_piperidinium_ion", "methyl_radical"]}], "steps": [{"step_id": "step_rd_cyclization_to_nitrogen", "from_state": "state_precursor", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [1, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rd_8_108", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_cyclization_to_nitrogen", "support_type": "textbook_proposed", "locator": {"page": 215, "equation": "8.108", "figure": null, "panel": "single arrow labelled 'rd'", "section": "8.11 Other rearrangements"}, "confidence": 0.85, "curator_note": "TEXT ON THE PAGE: 'Equation 8.108 (Levsen et al. 1977) was shown to involve cyclization to nitrogen, not oxygen; note that a vinylic bond is cleaved.' The scheme is a single reaction arrow labelled 'rd' (radical-site displacement); the products R. and the bicyclic ion are printed to the right of the arrow. WHAT THE BOOK DRAWS: an N-acylpiperidine whose acyl group carries a vinyl chain, R-CH=CH-C(=O)-N(piperidine), with '+.' printed directly on the ring nitrogen (n-ionization at N); the product is the SAME piperidine nitrogen now also bonded to the carbon that carried R, i.e. a 4-membered 2-azetinone ring (N-CH=CH-C(=O)- back to N) spiro-fused at N to the intact piperidine, with a bare '+' on N, plus a free R.. The new bond is made to NITROGEN, not to the carbonyl oxygen - that is exactly the point the sentence makes - and the bond that breaks is the R-C bond at an sp2 (vinylic) carbon, the second point the sentence makes. ARC COUNT (convention D): Book draws 2 arc(s), both single-barbed fishhooks (half-arrowheads), whose barbs converge in the open space between the ring nitrogen and the R-bearing vinyl carbon, i.e. onto the forming N-C bond: the LEFT arc has its tail on the R-C sigma bond just right of the 'R' label and loops up and over to the right; the RIGHT arc has its tail on the odd-electron dot of the '+.' on nitrogen and loops up and back to the left. Moves <1,2> are those two drawn arcs (move <1> = the nitrogen odd electron into the forming N-C bond, move <2> = one electron of the breaking R-C bond into the same forming bond); move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - it carries the second electron of the R-C bond onto R, which is what actually makes the R. radical the book prints as a product. LOCALIZATION (convention B): the precursor SMILES puts the charge and the odd electron explicitly on the nitrogen ([N+:1] with three sigma bonds = one unpaired electron in RDKit), exactly where the book prints '+.', so move <1> has a real origin. INSTANTIATION (convention F): the scheme is generic in R; this record uses R = CH3, i.e. 1-(piperidin-1-yl)but-2-en-1-one (C9H15NO, M+. m/z 153.1143), the smallest alkyl that reproduces the drawn vinylic C-C cleavage; the book names no specific R and prints no masses. GEOMETRY CHECK: the encoded ring closure is N(map 1)-C(map 5), giving the 4-membered ring maps 1-2-4-5, which is the ring drawn in the product; the C=O and the C4=C5 double bond are untouched, and the piperidine ring is a spectator. MS CONTEXT (convention G): page 215 names no ionization or activation method and no electron energy; the reacting species is the whole-molecule odd-electron radical cation drawn with '+.', so ms_context uses the convention-G molecular-ion default (EI, adduct [M]+., 70 eV). The 70 eV figure is the book's standing convention, NOT a number printed on this page."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 153.1143, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_138", "species_id": "azetinone_piperidinium_ion", "step_id": "step_rd_cyclization_to_nitrogen", "observed_mz": 138.0908, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
